Double-Heterojunction Laser Diode (Rodney S. Tucker Model)
**********************************************************

*.tran2 tstop=6n tstep=.001n nst=0 msv=0 deriv=0 im=1 out_steps=1
*.tran2 tstop=30n tstep=.002n im=1 out_steps=10000
*.svhb n_freqs=40 fundamental=1e9 deriv=0 steps=0

.dc sweep="vsource:vs" start=91m stop=200m step=.02m 

vsource:vs 1 0 vdc=0m 
*vpulse:vs  1 0 v1=0m v2=150m  td=.1n  tr=.1n  tf=.1n  pw=5n  per=9n
**vsource:vs 1 0 vdc=150m vac=2m f=1e9 phase=-90

*circuit to convert current to voltage since 
*fREEDA does not have a current pulse
vsource:vp 1 11 vac=0
g:vccs1 11 2 0 0 g=-1 ri=1e16 ro=1e16
*isource:is 2 0 idc=150m iac=4m f=1e9 phase=-90
vsource:vcurrs 2 3 vac=0v
*r:rin 3 0 r=1e6

vcseldh:ld1  3 0 4 "oref" c0=10p beta=1e-3

open:o1 4 "oref"
*resistor:rout 4 "oref" r=1e6

.ref "oref"

*.out plot element "vsource:vcurrs" 0 it in "curr.ox"
*.out plot element "vsource:vp" 0 it in "ip.ox"
.out plot term 3 vt in "DHLD_v_beta_5e_2_dc_freeda"
.out plot term 4 vt in "DHLD_sn_beta_5e_2_dc_freeda"
*.out plot term 3 vt in "v_beta_5e-2_sin_tr.freeda"
*.out plot term 4 vt in "sn_beta_5e-2_sin_tr.freeda"
*.out plot term 3 vf invfft 8 repeat in  "v_beta_5e-2_sin_hb.freeda"
*.out plot term 4 vf invfft 8 repeat in  "sn_beta_5e-2_sin_hb.freeda"

.end
